US05559134
9b) 6-(Diphenyl-tert-butylsilyloxymethyl)-2-pyridinecarbaldehyde
100 g of manganese dioxide is added in portions to a solution of 20 g of 6-(diphenyl-tert-butylsilyloxymethyl)-2-hydroxymethylpyridine in 236 ml of toluene at 24° C. under nitrogen and stirred for 24 hours. It is filtered on Celite, rewashed well with toluene and concentrated by evaporation in a vacuum. 19.0 g of the title compound is obtained as colored liquid, which is further used without further purification.

reactant | 6-(diphenyl-tert-butylsilyloxymethyl)-2-hydroxymethylpyridine | 20 g | C1(=CC=CC=C1)C(C1=CC=CC(=N1)CO)(O[SiH2]C(C)(C)C)C1=CC=CC=C1 | C23H27NO2Si
solvent | toluene | 236 ml | C1(=CC=CC=C1)C | C7H8
catalyst | manganese dioxide | 100 g | [O-2].[O-2].[Mn+4]
product | 6-(Diphenyl-tert-butylsilyloxymethyl)-2-pyridinecarbaldehyde | 19.0 g | C1(=CC=CC=C1)C(C1=CC=CC(=N1)C=O)(O[SiH2]C(C)(C)C)C1=CC=CC=C1 | C23H25NO2Si
